US04001418
A solution of thioxanthene (29.7 g.) in dimethyl sulphoxide (1,200 ml.) is added gradually to a solution of sodium methylsulphinylmethide [prepared in the usual way from sodium hydride (24 g. of a 60% dispersion in mineral oil) and dimethyl sulphoxide (300 ml.)]. The dark red mixture is cooled in ice and chloroethyl vinyl ether (44 g.) is added dropwise. The mixture is stirred under nitrogen for a further 16 hours, allowed to warm to ambient temperature (18°to 20° C.), poured into water (3 1.) and extracted with ether. The ethereal solution is washed with water, dried, and then evaporated to give crude oily 9,9-bis(2'-vinyloxyethyl)thioxanthene.

reactant | thioxanthene | 29.7 g | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | chloroethyl vinyl ether | 44 g | C(=C)OCCCl | C4H7ClO
solvent | dimethyl sulphoxide | 1,200 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 300 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 9,9-bis(2'-vinyloxyethyl)thioxanthene | C(=C)OCCC1(C2=CC=CC=C2SC=2C=CC=CC12)CCOC=C | C21H22O2S
